US09447092B2
2-Amino-5-chloro-4-(4-(5-methyl-1,2,4-oxadiazol-3-yl)methylpiperazin-1-yl)-3-nitropyridine
1-[(5-Methyl-1,2,4-oxadiazol-3-yl)methyl]piperazine hydrochloride (217 mg, 0.99 mmol) and 2-amino-4,5-dichloro-3-nitropyridine (208 mg, 1.0 mmol) were stirred in 2-propanol (5 mL) and diisopropylethylamine (523 μL, 387 mg, 3.0 mmol) was added. The mixture was stirred and heated at 45° C. for 23 h. The reaction was cooled and the product filtered off and washed with 2-propanol. Drying in vacuum gave the product (246 mg, 69%). 1H-NMR (500 MHz, CDCl3), 2.63 (s, 3H, CH3), 2.77 (br m, 4H, piperazine C—H), 3.29 (m, 4H, piperazine C—H), 3.76 (s, 2H, CH2), 5.27 (s, 2H, NH2), 8.02 (s, 1H, pyridine 6-H).

reactant | 1-[(5-Methyl-1,2,4-oxadiazol-3-yl)methyl]piperazine hydrochloride | 0.99 mmol, 217 mg | Cl.CC1=NC(=NO1)CN1CCNCC1
reactant | 2-amino-4,5-dichloro-3-nitropyridine | 1.0 mmol, 208 mg | NC1=NC=C(C(=C1[N+](=O)[O-])Cl)Cl | C5H3Cl2N3O2
reactant | diisopropylethylamine | 3.0 mmol, 523 μL, 387 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
product | 2-Amino-5-chloro-4-(4-(5-methyl-1,2,4-oxadiazol-3-yl)methylpiperazin-1-yl)-3-nitropyridine | 246 mg, 69% | NC1=NC=C(C(=C1[N+](=O)[O-])N1CCN(CC1)CC1=NOC(=N1)C)Cl | C13H16ClN7O3
